US05990139
Synthesis of 1-(4-chlorophenyl)-4-hydroxymethyl-5-methyl-1H-pyrazole (Compound No. 23)
To a solution of 3.2 g of ethyl 1-(4-chlorophenyl)-5-methyl-1H-pyrazole-4-carboxylate, 0.46 g of lithium aluminum hydride was added, followed by stirring for 1.5 hours at room temperature. The reaction mixture was added with a 5% aqueous solution of hydrochloric acid and then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column and then purified using gradient elution with hexane-ethyl acetate, whereby 2.45 g of the title compound were obtained (yield: 91%).

reactant | ethyl 1-(4-chlorophenyl)-5-methyl-1H-pyrazole-4-carboxylate | 3.2 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)OCC | C13H13ClN2O2
reactant | lithium aluminum hydride | 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-chlorophenyl)-4-hydroxymethyl-5-methyl-1H-pyrazole | 2.45 g, yield: 91% | ClC1=CC=C(C=C1)N1N=CC(=C1C)CO | C11H11ClN2O
